US08026261B2
A mixture of 5-benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (3.1 g, 9.9 mmol) and methanol (60 mL) was sonicated to give a clear solution. To the solution was added Pd/C (10 wt. %, dry basis, on activated carbon, wet, Degussa type E101 NE/W, 0.58 g). The debenzylation reaction was conducted in a Parr hydrogenator under an atmosphere of hydrogen pressurized to 50 psi. The reaction was completed within 20 min. The reaction mixture was diluted with MeOH (100 mL), sonicated for about 20 min. A CELITE™ bed was prepared on a sintered glass, and washed with 6M HCl (100 mL), followed by water (7×50 mL) and then methanol (2×50 mL) under suction. The reaction mixture was filtered through the pre-treated CELITE™ bed. The filtrate was collected and concentrated in vacuo to give 5-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one as a solid product (2.05 g, 92% yield, HPLC Method 1 (Example 24), RT=7.4 min, HPLC purity (peak percent area): 99.4% at λ=280 nm). 1H NMR (DMSO-d6+D2O) δ ppm: 7.50 (s, 1H), 6.50 (s, 1H), 5.37 (q, J=6.5 Hz, 1H), 3.67 (s, 3H); MS-ESI (m/z) 224.2 [M+1]+, 206.2, 155.2 (100%), 140.1, 126.1.

reactant | 5-benzyloxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 9.9 mmol, 3.1 g | C(C1=CC=CC=C1)OC=1C(C=C(N(C1)C)C(C(F)(F)F)O)=O | C15H14F3NO3
solvent | MeOH | 100 mL | CO | CH4O
catalyst | Pd/C | 0.58 g | [Pd] | Pd
solvent | methanol | 60 mL | CO | CH4O
product | 5-hydroxy-1-methyl-2-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 92% yield | OC=1C(C=C(N(C1)C)C(C(F)(F)F)O)=O | C8H8F3NO3
